US08426540B2
Using 2-amino-4-methylphenol and 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde, 3.82 g of 4-methyl-2-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 92%).

reactant | 2-amino-4-methylphenol | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde | FC(C1=C(C=CC=C1)C1=CC=C(O1)C=O)(F)F | C12H7F3O2
product | 4-methyl-2-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol | 3.82 g | CC1=CC(=C(C=C1)O)N=CC=1OC(=CC1)C1=C(C=CC=C1)C(F)(F)F | C19H14F3NO2
